US07728030B2
N-[(1R,2S)-1-[1-(4-Fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-N′,N′-dimethyl-oxamide
Prepared as described in Example 76 using (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine (51 mg, 0.13 mmol) and 2-(dimethylamino)-2-oxoacetic acid (13 mg, 0.13 mmol). Yield 44 mg (69%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine | 0.13 mmol, 51 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C23H22FN3O2
reactant | 2-(dimethylamino)-2-oxoacetic acid | 0.13 mmol, 13 mg | CN(C(C(=O)O)=O)C | C4H7NO3
product | N-[(1R,2S)-1-[1-(4-Fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-N′,N′-dimethyl-oxamide | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(=O)C(=O)N(C)C)C1=CC(=CC=C1)OC | C27H27FN4O4
